US05409937
Lithium aluminium hydride (92 mg, 2.5 mmol) was added to a stirred solution of 2-(cyanomethyl)-5-(4-fluorophenyl)hexahydrofuro[2,3-b]furan (300 mg, 1.2 mmol) in dry THF. The reaction mixture was stirred overnight and water (0.9 ml), 15% sodium hydroxide (0.9 ml) and water (2.7 ml) are added in succession. The white percipitate was filtered off and the solvent removed under reduced pressure to give crude 5-(2-aminoethyl)-2-(4-fluorophenyl)hexahydrofuro[2,3-b]furan which is used directly in the next step.

reactant | Lithium aluminium hydride | 2.5 mmol, 92 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(cyanomethyl)-5-(4-fluorophenyl)hexahydrofuro[2,3-b]furan | 1.2 mmol, 300 mg | C(#N)CC1CC2C(OC(C2)C2=CC=C(C=C2)F)O1 | C14H14FNO2
reactant | water | 0.9 ml | O | H2O
reactant | sodium hydroxide | 0.9 ml | [OH-].[Na+]
reactant | water | 2.7 ml | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 5-(2-aminoethyl)-2-(4-fluorophenyl)hexahydrofuro[2,3-b]furan | NCCC1CC2C(O1)OC(C2)C2=CC=C(C=C2)F | C14H18FNO2
